US07977338B2
Step 2.2: (4-Benzoimidazol-1-yl-phenyl)-acetic acid methyl ester
is obtained analogously to the method as described in Step 1.2 but using [4-(2-amino-phenylamino)-phenyl]-acetic acid methyl ester instead of 4-(3-amino-pyridin-2-ylamino)-phenyl]-acetic acid methyl ester as a starting material. ES-MS: 267.1 [M+H]+; single peak at tR=3.00 min (System 1).

reactant | [4-(2-amino-phenylamino)-phenyl]-acetic acid methyl ester | COC(CC1=CC=C(C=C1)NC1=C(C=CC=C1)N)=O | C15H16N2O2
reactant | acetic acid methyl ester | COC(C)=O | C3H6O2
product | (4-Benzoimidazol-1-yl-phenyl)-acetic acid methyl ester | COC(CC1=CC=C(C=C1)N1C=NC2=C1C=CC=C2)=O | C16H14N2O2
